US06800629B2
In a mixture of 30 mL of acetonitrile and 15 mL of water was dissolved 1.0 g of 3-[4-(benzyloxy)phenoxy]-6-fluoro-2-pyrazinecarbonitrile. After adding 8.5 g of diammonium cerium nitrate, the mixture thus obtained was heated under reflux for 3 hours. The reaction mixture was returned to room temperature, a mixture consisting of 50 mL of ethyl acetate, 5 ml of water and 5 mL of 5% aqueous solution of sodium thiosulfate was added, and the organic layer was separated. The organic layer thus obtained was washed with saturated aqueous solution of sodium chloride, treated with active charcoal and dried on anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. Thus, 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarbonitrile was obtained as a yellow-colored solid product.

reactant | 3-[4-(benzyloxy)phenoxy]-6-fluoro-2-pyrazinecarbonitrile | 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(OC=2C(=NC(=CN2)F)C#N)C=C1 | C18H12FN3O2
reactant | diammonium cerium nitrate | 8.5 g | [N+](=O)([O-])[O-].[Ce+3].[NH4+].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 15 mL | O | H2O
solvent | water | 5 ml | O | H2O
product | 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarbonitrile | FC1=CNC(C(=N1)C#N)=O | C5H2FN3O
